### PR TITLE
refactor: shorten proofs (statements unchanged)

### PR DESCRIPTION
**Pull request by sqrt-of-2**
As discussed with Yaël.

### CODE REVIEW

File: AddCombi/Convolution/Finite/Defs.lean [hunk 1]
```diff
@@ -212,9 +212,9 @@ lemma dconv_eq_smul_sum (f g : G → K) (a : G) :
   simp [dconv_apply, expect, ← univ_product_univ, card_sub_eq]
 
 @[simp] lemma conv_conjneg (f g : G → K) : f ∗ conjneg g = f ○ g :=
-  funext fun a ↦ expect_bij (fun x _ ↦ (x.1, -x.2)) (fun x hx ↦ by simpa using hx) (fun x _ ↦ rfl)
-    (fun x y _ _ h ↦ by simpa [Prod.ext_iff] using h) fun x hx ↦
-      ⟨(x.1, -x.2), by simpa [sub_eq_add_neg] using hx, by simp⟩
+  funext fun a ↦ expect_bij (fun x _ ↦ (x.1, -x.2)) (fun x hx ↦ by simp_all) (fun x _ ↦ rfl)
```
Comment (YaelDillies) [inline AddCombi/Convolution/Finite/Defs.lean]: This one looks like a regression: `simpa using hx` gives me more info about how this is proved than `simp_all`

File: AddCombi/BSG.lean [hunk 2]
```diff
@@ -404,22 +394,18 @@ public theorem BSG₂ {K : ℝ} (hK : 0 ≤ K) (hB : B.Nonempty)
   · exact ⟨∅, by simp, ∅, by simp⟩
   obtain rfl | hK := eq_or_lt_of_le hK
   · exact ⟨∅, by simp, ∅, by simp⟩
-  obtain ⟨x, A', hA, h⟩ := BSG_aux hK (by simpa [card_pos]) (by simpa [card_pos]) hAB
+  obtain ⟨x, A', hA, h⟩ := BSG_aux hK (by lia) (by lia) hAB
```
Comment (YaelDillies) [inline AddCombi/BSG.lean]: Are you sure `lia` is suited here? This looks like scope-creep

**Review by YaelDillies — APPROVED** [review]
Thank you!
